US07951811B2
Synthesis of {1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-acetic acid 1-cyclohexyloxycarbonyloxy-ethyl ester (compound 1-071)
A suspension of {1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-acetic acid hydrochloride (300 mg), 1-chloroethyl cyclohexyl carbonate (293 mg), potassium carbonate (196 mg) and NaI (213 mg) in DMF (3 mL) was heated at 60° C. for 3 hours. After cooling to room temperature, water was added and the mixture was extracted with ethyl acetate. The organic phase was washed with brine and concentrated under reduced pressure. The residue was purified with column chromatography (silica gel: Wako gel C200, eluent: hexane:ethyl acetate=4/1) to obtain the title compound (225 mg) as a colorless oil.

reactant | {1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-acetic acid hydrochloride | 300 mg | Cl.BrC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2N2CCC(CC2)CC(=O)O)C)C)C
reactant | 1-chloroethyl cyclohexyl carbonate | 293 mg | C(OC(C)Cl)(OC1CCCCC1)=O | C9H15ClO3
reactant | potassium carbonate | 196 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NaI | 213 mg | [Na+].[I-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-acetic acid 1-cyclohexyloxycarbonyloxy-ethyl ester | 225 mg | C1(CCCCC1)OC(=O)OC(C)OC(CC1CCN(CC1)C1=C2C(=NC(=C1)C)N(C=C2C)C2=C(C=C(C=C2C)Br)C)=O | C33H42BrN3O5
